US09403845B2
Preparation of 2,6-dibromo-3-but-3-enoxy-pyridine
To a stirred mixture of 2,6-dibromopyridin-3-ol (47.3 g, 0.188 mol) and but-3-en-1-ol (13.8 g, 0.191 mol) in anhydrous THF (200 ml) at 0° C. was added PPh3 (59.4 g, 0.226 mol), followed by diethyl azodicarboxylate (41.77 g, 0.207 mol). The mixture was heated at reflux for 1 h and then concentrated in vacuo to give a dark brown oil. The oil was dissolved in EtOAc, washed with saturated NaHCO3 solution and brine, dried with Na2SO4, and concentrated in vacuo. Petroleum (300 ml) was added to the crude product mixture. The white solid was removed by filtration, and the filtrate was purified by silica gel chromatography (petroleum/EtOAc, 30/1) to afford the title compound as an oil.

reactant | 2,6-dibromopyridin-3-ol | 0.188 mol, 47.3 g | BrC1=NC(=CC=C1O)Br | C5H3Br2NO
reactant | but-3-en-1-ol | 0.191 mol, 13.8 g | C(CC=C)O | C4H8O
reactant | PPh3 | 0.226 mol, 59.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 0.207 mol, 41.77 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,6-dibromo-3-but-3-enoxy-pyridine | BrC1=NC(=CC=C1OCCC=C)Br | C9H9Br2NO
